*****************************************************************
* NXP BUK9Y15-100E
*
* Polarity N-Channel
* Ratings 100V/1.500000E-002OHMS/68.5280928383068A
*
* Date Created Tue Feb 05 07:13:23 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y15-100E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0110464854155472 TC=0.00573036277605953,3.40376009865822E-05
RBD 9 4 0.00102427769399796 TC=0.00573036277605953,3.40376009865822E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 4.07312772542736e-09
RG 1 2 2.32663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	2748
+ -16	2747
+ -10	2743
+ -5	2727
+ -4	2718
+ -3	2690
+ -2	3110
+ -1	2975
+ -0.5	2178
+ -0.2	1526
+ -0.1	1336
+ 0	1171
+ 0.1	1009
+ 0.2	901
+ 0.5	727
+ 1	592
+ 2	430
+ 3	369
+ 4	333
+ 5	306
+ 6	284
+ 8	253
+ 10	230
+ 12	213
+ 15	195
+ 20	172
+ 30	144
+ 50	115
+ 70	86.6666666666667
+ 90	58.1666666666667




.MODEL MINT NMOS(Vto=2.17485415547198 Kp=160 Nfs=430000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=2.03977056233085e-12
+ N=1 M=0.59 VJ=0.57 Fc=0.5 Cjo=1.014e-09 Tt=2.7664e-08)

.ENDS

